US05852017
9-(2-Methoxycarbonyl-1-pyrrolyl)benzo[f]quinoxaline-2,3(1H,4H)-dione
8.8 mmol of 9-aminobenzo[f]quinoxaline-2,3(1H,4H)-dione were reacted with 8.8 mmol of 2-methoxycarbonyl-2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 9-aminobenzo[f]quinoxaline-2,3(1H,4H)-dione | 8.8 mmol | NC=1C=CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C12H9N3O2
reactant | 2-methoxycarbonyl-2,5-dimethoxytetrahydrofuran | 8.8 mmol | COC(=O)C1(OC(CC1)OC)OC | C8H14O5
product | 9-(2-Methoxycarbonyl-1-pyrrolyl)benzo[f]quinoxaline-2,3(1H,4H)-dione | COC(=O)C=1N(C=CC1)C=1C=CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C18H13N3O4
